US07196104B2
Preparation CJ: 5-(4-Ethoxycarbonyl-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester
To a solution of 5-thiocarbamoyl-indole-1-carboxylic acid tert-butyl ester (13.16 g, 47.6 mmol) and 250 mL of EtOH was added ethyl bromopyruvate (6.05 mL, 48.2 mmol). The resulting solution was stirred at 60° C. for 1.5 h, then concentrated in vacuo. The resulting solid was purified by flash chromatography on silica gel using 5% EtOAc/hexane→80% EtOAc/hexane→CH2Cl2 as the eluant to give a white solid. MS m/z: 373 (M+1). Calc'd for C19H20N2O4S-372.44.

reactant | 5-thiocarbamoyl-indole-1-carboxylic acid tert-butyl ester | 47.6 mmol, 13.16 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C(N)=S | C14H16N2O2S
reactant | ethyl bromopyruvate | 48.2 mmol, 6.05 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | EtOH | 250 mL | CCO | C2H6O
product | 5-(4-Ethoxycarbonyl-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1SC=C(N1)C(=O)OCC | C19H20N2O4S
